### PR TITLE
feat(ErdosProblems): 1004

### LINKED ISSUE #1066: Erdős Problem 1004
### What is the conjecture

https://www.erdosproblems.com/1004

  Let $c>0$. If $x$ is sufficiently large then does there exist $n\leq x$ such that the values of $\phi(n+k)$ are all distinct for $1\leq k\leq (\log x)^c$, where $\phi$ is the Euler totient function?

Status:  open

### PR DESCRIPTION
**Pull request by aborregop2**
Closes #1066

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1004.lean [hunk 1]
```diff
@@ -0,0 +1,51 @@
...
+
+import FormalConjectures.Util.ProblemImports
+
+open Filter Real
+open Nat
+
+namespace Erdos1004
+
+/-- `distinct_totient_run n K` means that the values `φ(n+1), φ(n+2), ..., φ(n+K)` are all distinct. -/
+def distinct_totient_run (n K : ℕ) : Prop :=
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1004.lean]: Style should be
```suggestion
def IsDistinctTotientRun (n K : ℕ) : Prop :=
```

File: FormalConjectures/ErdosProblems/1004.lean [hunk 2]
```diff
@@ -0,0 +1,51 @@
...
+  ∀ (i j : Fin K), totient (n + i.val + 1) = totient (n + j.val + 1) → i = j
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1004.lean]: Here is a more concise definition:
```suggestion
  (Set.Icc (n + 1) (n + K)).InjOn totient
```

File: FormalConjectures/ErdosProblems/1004.lean [hunk 3]
```diff
@@ -0,0 +1,51 @@
...
+
+/--
+For any fixed c > 0, if x is sufficiently large then there exists n ≤ x such that
+the values of φ(n+k) are all distinct for 1 ≤ k ≤ (log x)^c.
+This is an open problem.
+-/
+@[category research open, AMS 11]
+theorem erdos_1004 (c : ℝ) (hc : c > 0) :
+    (∃ x₀ : ℕ, ∀ x ≥ x₀, ∃ n ≤ x,
+      distinct_totient_run n ⌊(Real.log (x : ℝ)) ^ c⌋₊) ↔ answer(sorry) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1004.lean]: Let's include 'c' in the statement and use more filter machinery:
```suggestion
theorem erdos_1004 :
    (∀ c > (0 : ℝ), ∀ᶠ x in atTop, ∃ n ≤ x,
      IsDistinctTotientRun n ⌊(Real.log (x : ℝ)) ^ c⌋₊) ↔ answer(sorry) := by
```

File: FormalConjectures/ErdosProblems/1004.lean [hunk 4]
```diff
@@ -0,0 +1,51 @@
...
+/--
+Erdős, Pomerance, and Sárközy [EPS87] proved that if φ(n+k) are all distinct for 1 ≤ k ≤ K then
+K ≤ n / exp(c (log n)^{1/3}) for some constant c > 0.
+Here we state the existence of such a constant c.
+-/
+@[category research solved, AMS 11]
+theorem erdos_1004.EPS87_theorem :
+    (∃ (c : ℝ) (hc : c > 0),
+      ∀ (n K : ℕ), distinct_totient_run n K →
+        (K : ℝ) ≤ (n : ℝ) / Real.exp (c * (Real.log n) ^ (1/3 : ℝ))) ↔ answer(True) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1004.lean]: This looks false as written: What if `n := 0` and `K := 1`? Can you add an assumption that `n > 0`?

**Comment by aborregop2** [comment]
Thanks @YaelDillies , pushed!

File: FormalConjectures/ErdosProblems/1004.lean [hunk 5]
```diff
@@ -0,0 +1,52 @@
...
+def IsDistinctTotientRun (n K : ℕ) : Prop :=
+  (Set.Icc (n + 1) (n + K)).InjOn totient
+
+/--
+For any fixed c > 0, if x is sufficiently large then there exists n ≤ x such that
+the values of φ(n+k) are all distinct for 1 ≤ k ≤ (log x)^c.
+This is an open problem.
+-/
+@[category research open, AMS 11]
+theorem erdos_1004:
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1004.lean]:
```suggestion
theorem erdos_1004 :
```

**Review by YaelDillies — APPROVED** [review]
Thanks!
